US04968708
2-Methyl-3-thenoyloxymethylimidazo[2,1-b]benzothiazole:
In 30 ml of dry dimethylformamide was suspended 2.18 g of 2-methylimidazo[2,1-b]benzothiazole-3-methanol. Then, 0.50 g of 60% sodium hydride was added to the suspension. After stirring for 30 minutes, 1.76 g of thenoyl chloride was added to the mixture followed by stirring at room temperature for 3 hours. Ice water was added to the reaction mixture and the system extracted with chloroform. After the chloroform was removed, 1.76 g of the title compound was obtained.

reactant | 2-methylimidazo[2,1-b]benzothiazole-3-methanol | 2.18 g | CC=1N=C2SC3=C(N2C1CO)C=CC=C3 | C11H10N2OS
reactant | sodium hydride | 0.50 g | [H-].[Na+]
reactant | thenoyl chloride | 1.76 g | C1(=CC=CS1)C(=O)Cl | C5H3ClOS
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-Methyl-3-thenoyloxymethylimidazo[2,1-b]benzothiazole | 1.76 g | CC=1N=C2SC3=C(N2C1COC(C1=CSC=C1)=O)C=CC=C3 | C16H12N2O2S2
